******************************************************************************
*dummy subckt used only for symbol initialization
.subckt Vreg 1 2 3
.ends
******************************************************************************
.subckt 7805 In Aj Out
F1 In 0 Vc 1
Rcon In 0 1e6
B1 4 Aj V= Table (V(In,Aj), 0,0, 1,0, 7,5, 35,5, 36,0)
Vc 4 Out 0
F2 In Aj Vc 4m
.ends
*78L05 MCE 7-12-95
*78L05 circuit taken from Signetics 1977 Analog Data Book page 160
*5V 100mA Voltage Regulator pkg:TO-92 1,2,3
.SUBCKT 78L05 1 2 3
Q1 5 5 1 QPNP
Q2 10 5 1 QPNP
Q3 1 11 12 QNPN
Q4 1 10 11 QNPN
Q5 10 13 14 QNPN
Q6 1 4 20 QNPN
Q7 10 19 21 QNPN
Q8 9 9 2 QNPN
Q9 18 9 22 QNPN OFF
Q10 8 18 2 QNPN
Q11 5 7 17 QNPN
Q12 5 16 17 QNPN
Q13 10 15 17 QNPN
C1 15 10 20E-12
D1 2 4 DZ5V
Q14 2 8 7 QPNP
R17 2 17 4E3
R16 4 1 20E3
R15 16 20 4E3
R14 19 16 700
R13 2 19 300
R12 2 21 100
R11 9 7 1E3
R10 18 7 10E3
R9 7 3 2.2E3
R8 2 22 1E3
R7 8 7 2E3
R6 2 15 1.4E3
R5 15 3 4.5E3
R4 3 14 100
R3 3 12 2
R2 13 11 500
R1 13 12 200

.MODEL QPNP PNP(IS=1.05E-15 BF=220 VAF=240 IKF=0.1 ISE=1.003E-9
+ NE=4 ISC=1.003E-9 NC=4 RB=3 RE=0.5 RC=0.2 CJE=5.7E-12 VJE=0.75 TF=3.35E-10
+ CJC=4.32E-12 VJC=0.75 TR=1.7E-7 VJS=0.75 KF=4E-15 )

.MODEL QNPN NPN(IS=8.11E-14 BF=205 VAF=113 IKF=0.5 ISE=1.06E-11
+ NE=2 BR=4 VAR=24 IKR=0.225 RB=1.37 RE=0.343 RC=0.137 CJE=2.95E-11
+ TF=3.97E-10 CJC=1.52E-11 TR=8.5E-8 XTB=1.5 )

.MODEL DZ5V D(IS=1E-11 RS=7.708 N=1.27 TT=5E-8 CJO=4.068E-10 VJ=0.75
+ M=0.33 BV=4.946 IBV=0.01 )
.ENDS 78L05
* LM7805 model.
* No need to use .inc - I've set the .asy symbol to remove the need for .inc.
* (I used the symbol of LT1084, just replaced the LT1084 by LMxxxx and LTC.LIB by regulators.lib)

.SUBCKT LM7805  1    2    3
* In GND Out
QT6          23  10  2   Q_NPN 0.1
QT7          5   4   10  Q_NPN 0.1
QT5          7   6   5   Q_NPN 0.1
QT1          1   9   8   Q_NPN 0.1
QT3          11  8   7   Q_NPN 0.1
QT2          11  13  12  Q_NPN 0.1
QT17         1   15  14  Q_NPN 10
C2           10  23      4P
R16          12  5       500
R12          16  2       12.1K
QT18         17  23  16  Q_NPN 0.1
D1           18  19  	 D_D
R11          20  21      850
R5           22  3       100
QT14         24  18  2   Q_NPN 0.1
R21          6   2       2.67K
R20          3   6       640
DZ2          25  26      D_5V1
R19          1   26      16K
R18          14  3       250M
R17          25  14      380
R15          25  15      1.62K
QT16         1   20  15  Q_NPN 1
QT15         2   24  21  Q_PNP 0.1
*OFF
R14          21  24      4K
C1           27  24      20P
R13          19  2       4K
QT13         24  27  18  Q_NPN 0.1
QT12         20  25  22  Q_NPN 1
*OFF
QT11         20  28  2   Q_NPN 0.1
*OFF
QT10         20  11  1   Q_PNP 0.1
R10          17  27      16.5K
R9           5   4       1.9K
R8           4   23      26
R7           10  2       1.2K
R6           29  2       1K
QT9          11  11  1   Q_PNP 0.1
QT8          27  16  29  Q_NPN 0.1
QT4          15  6   17  Q_NPN 0.1
DZ1          2   9       D_5V6
R4           1   9       80K
R3           28  2       830
R2           13  28      4.97K
R1           8   13      7K
*
.MODEL D_5V1 D( IS=10F N=1.16 BV=5.1 IBV=0.5M CJ0 = 1P TT = 10p )
.MODEL D_5V6 D( IS=10F N=1.16 BV=5.6 IBV=5U CJ0 = 1P TT = 10p )
.MODEL Q_NPN NPN( IS=10F NF=1.16 NR=1.16 BF=80 CJC=1P CJE=2P
+       TF=10P TR=1N )
.MODEL Q_PNP PNP( IS=10F NF=1.16 NR=1.16 BF=80 CJC=1P CJE=2P
+      TF=10P TR=1N )
.MODEL D_D D( IS=1F N=1.16 CJ0 = 1P TT = 10p )

.ENDS LM7805
*
*==================================
